US06110924
b) Preparation of 5-[4-(tertbutyldimethylsilyloxy)phenyl]barbituric acid
To a solution of 5-(4-hydroxyphenyl)barbituric acid (1.9 g) and tertbutyl dimethylsilyl chloride (4.68 g) in 20 ml of anhydrous dimethylformlamde are added 4.4 g of imidazole and the mixture is heated to 55° C. for 5 hours. The temperature is then brought to room temperature and the reaction mixture is poured into 1 N hydrochloric acid and extracted twice with ethyl acetate. The pooled organic extracts are washed with water and dried over sodium sulfate. By concentration of the solution a white solid separates, which is kept at 0° C. overnight, then it is filtered to give 2.185 g of the product

reactant | 5-(4-hydroxyphenyl)barbituric acid | 1.9 g | OC1=CC=C(C=C1)C1C(NC(NC1=O)=O)=O | C10H8N2O4
reactant | tertbutyl dimethylsilyl chloride | 4.68 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 4.4 g | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 1 N | Cl | ClH
product | 5-[4-(tertbutyldimethylsilyloxy)phenyl]barbituric acid | 2.185 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C1C(NC(NC1=O)=O)=O)(C)C | C16H22N2O4Si
